US04764522
14.9 g of t-butyl [2-(5-methylthiophene-2-carboxamido)ethyl]carbamate were reacted with trifluoroacetic acid in an analogous manner to that described in Example 2, paragraph 2. The residue was converted into the hydrochloride which was recrystallized from ethanol/ether, whereby there was obtained N-(2-aminoethyl)-5-methylthiophene-2-carboxamide hydrochloride as light beige crystals, m.p. 161°-162°.

reactant | t-butyl [2-(5-methylthiophene-2-carboxamido)ethyl]carbamate | 14.9 g | CC1=CC=C(S1)C(=O)NCCNC(OC(C)(C)C)=O | C13H20N2O3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloride | Cl | ClH
product | N-(2-aminoethyl)-5-methylthiophene-2-carboxamide hydrochloride | Cl.NCCNC(=O)C=1SC(=CC1)C | InChI=1S/C8H12N2OS.ClH/c1-6-2-3-7(12-6)8(11)10-5-4-9;/h2-3H,4-5,9H2,1H3,(H,10,11);1H
